US04587261
Preparation of N-(methoxycarbonyl)-N'-(2-benzylcyclohexylidene)-hydrazine
18.83 g (0.1 mole) of 2-benzylcyclohexan-1-one and 9.0 g (0.1 mole) of N-methoxycarbonyl hydrazine are dissolved in 100 cm3 of anhydrous ethanol, and the solution is boiled for 2 hours. Then it is cooled, and the separated crystals are filtered off. 18.2 g (96.9%) of the named compound are obtained.

reactant | 2-benzylcyclohexan-1-one | 0.1 mole, 18.83 g | C(C1=CC=CC=C1)C1C(CCCC1)=O | C13H16O
reactant | N-methoxycarbonyl hydrazine | 0.1 mole, 9.0 g | COC(=O)NN | C2H6N2O2
solvent | ethanol | 100 cm3 | C(C)O | C2H6O
product | N-(methoxycarbonyl)-N'-(2-benzylcyclohexylidene)-hydrazine | 18.2 g, 96.9% | COC(=O)NN=C1C(CCCC1)CC1=CC=CC=C1 | C15H20N2O2
